US06649765B1
PCT Publication No WO 97/22584 reports preparation of Donepezil HCl by reacting pyridine-4-aldehyde with malonic acid. The resulting 3-(pyridin-4-yl)-2-propenoic acid was reduced with rodium on carbon under hydrogen atmosphere to give 3-(piperidin-4-yl)-2-propionic acid which on reaction with methyl chlorocarbonate gave 3-[N-(methoxycarbonyl)piperidin-4-yl]propionic acid. On reacting 3-[N-(methoxycarbonyl)piperidin-4-yl]propionic acid with oxalyl chloride, methyl 4-(2-chlorocarbonylethyl)piperidin-1-carboxylate is obtained which on reaction with 1,2-dimethoxy benzene in the presence of aluminium chloride afforded 4-[3-(3,4-dimethoxyphenyl)-3-oxopropyl]piperidin-1-carboxylate. On reacting 4-[3-(3,4-dimethoxyphenyl)-3-oxopropyl]piperidin-1-carboxylate with tetramethyl diamino methane, 4-[2-(3,4-dimethoxy benzoyl)allyl]piperidin-1-carboxylate is obtained which on treatment with sulphuric acid gave methyl 4-(5,6-dimethoxy-1-indanon-2-yl methyl)piperidin-1-carboxylate. On decarboxylating 4-(5,6-dimethoxy-1-indanon-2-yl methyl)piperidin-1-carboxylate, 5,6-dimethoxy-2-(piperidin-4-yl methyl)-1-indanone is obtained which on treatment with benzyl bromide afforded Donepezil HCl (Example 1 to 6). Overall yield of Donepezil HCl 19.3% (70%×84%×100%×68%×79%×61%).

reactant | 3-[N-(methoxycarbonyl)piperidin-4-yl]propionic acid | COC(=O)N1CCC(CC1)CCC(=O)O | C10H17NO4
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | methyl 4-(2-chlorocarbonylethyl)piperidin-1-carboxylate | ClC(=O)CCC1CCN(CC1)C(=O)OC | C10H16ClNO3
